US07612075B2
A. (±)-1-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid methyl ester.
To a solution containing (±)-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-6-oxo-piperazine-2-carboxylic acid methyl ester (1.17 g, 2.6 mmol), EXAMPLE 784, Part B, 5-chlorothiophen-2-yloxyacetic acid (0.5 g, 2.6 mmol), EXAMPLE 24, and N-methylmorpholine (0.58 g, 5.72 mmol) in anhydrous DMF (10 mL) is added HATU (1.09 g, 2.86 mmol) at ambient temperature. After 1.5 h, the reaction mixture is diluted with CH2Cl2 (100 mL) and aqueous NaHCO3 (100 mL) and the layers are separated. The aqueous phase is washed four times with CH2Cl2 (100 mL) and the combined organic phase is washed once with brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude amide is purified by flash silica gel chromatography (hexane/EtOAc, 4:1 to 1:2) to afford 1.5 g of the title compound which is used directly in the next reaction. 1H NMR (300 MHz, CDCl3, ˜2:1 mixture of rotomers) major rotomer: δ3.55 (d, J=15.2 Hz, 1H), 3.60 (m, 1H), 3.69 (m, 5H), 4.37 (d, J=17.7 Hz, 1H), 4.62 (m, 2H), 4.79 (d, J=13.3 Hz, 1H), 5.35 (d, J=15.2 Hz, 1H), 6.05 (d, J=3.9 Hz, 1H), 6.52 (m. 2H), 6.84 (d, J=8.1 Hz, 1H), 7.18-7.49 (m, 11H), 7.76 (m, 1H) ppm; MS (ISP loop): m/z 627 (M+H).

reactant | (±)-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-6-oxo-piperazine-2-carboxylic acid methyl ester | 2.6 mmol, 1.17 g | COC(=O)C1N(C(CNC1)=O)CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N4O3
reactant | 5-chlorothiophen-2-yloxyacetic acid | 2.6 mmol, 0.5 g | ClC1=CC=C(S1)OCC(=O)O | C6H5ClO3S
reactant | N-methylmorpholine | 5.72 mmol, 0.58 g | CN1CCOCC1 | C5H11NO
reactant | HATU | 2.86 mmol, 1.09 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
product | (±)-1-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid methyl ester | 1.5 g | COC(=O)C1N(C(CN(C1)C(COC=1SC(=CC1)Cl)=O)=O)CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H27ClN4O5S
